US07384945B2
1-{4-[3-(4-Chloro-benzyl)-6-fluoro-2-phenoxymethyl-3H-benzoimidazol-5-yl]-piperazin-1-yl}-3-methoxy-propan-1-one
71 mg of TBTU (0.22 mmol), 0.19 ml of ethyldiisopropylamine and 0.023 ml of 3-methoxy-propionic acid (0.22 mmol) were dissolved in 6 ml DMF and stirred for one minute at rt under argon. Then 100 mg of 1-(4-chloro-benzyl)-5-fluoro-2-phenoxymethyl-6-piperazin-1-yl-1H-benzoimidazole (0.22 mmol) were added and the reaction mixture was stirred for 22 h at rt. The reaction mixture was then diluted with 30 ml water and extracted with ethylacetate (twice). The combined organic phases were washed with water and brine, dried with magnesium sulfate, filtered and concentrated in vacuo, leading to 121 mg of a light red solid (97%). MS (ISP) 537.4 (M+H)+.

reactant | TBTU | 0.22 mmol, 71 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | ethyldiisopropylamine | 0.19 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 3-methoxy-propionic acid | 0.22 mmol, 0.023 ml | COCCC(=O)O | C4H8O3
reactant | 1-(4-chloro-benzyl)-5-fluoro-2-phenoxymethyl-6-piperazin-1-yl-1H-benzoimidazole | 0.22 mmol, 100 mg | ClC1=CC=C(CN2C(=NC3=C2C=C(C(=C3)F)N3CCNCC3)COC3=CC=CC=C3)C=C1 | C25H24ClFN4O
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
solvent | water | 30 ml | O | H2O
product | 1-{4-[3-(4-Chloro-benzyl)-6-fluoro-2-phenoxymethyl-3H-benzoimidazol-5-yl]-piperazin-1-yl}-3-methoxy-propan-1-one | ClC1=CC=C(CN2C(=NC3=C2C=C(C(=C3)F)N3CCN(CC3)C(CCOC)=O)COC3=CC=CC=C3)C=C1 | C29H30ClFN4O3
